US05523475
4,6-Dibromo-3-hydroxyanthranilic acid
4,6-Dibromo-3-hydroxy-2-nitrobenzoic acid (4.09 g, 12 mmol) and PtS2 (160 mg, 0.62 mmol) in EtOH (150 mL) was hydrogenated at atmospheric pressure and room temperature for 45 h. Filtration and evaporation of the filtrate gave a crude product (3.69 g) which was purified by flash chromatography (SiO2, toluene-EtOAc). Treatment with activated charcoal in MeOH and crystallization from MeOH/H2O gave the title compound (2.51 g). Mp: 162°-164.5° C. 1H NMR (DMSO-d6): δ6.96 (s, 1H). 13C NMR (DMSO-d6): δ167.69, 140.56, 139.95, 121.81, 117.23, 112.53, 110.45. MS (EI, 70 ev): m/z (rel. int.) 309, 311, 313 (M+, 36, 72, 34).

reactant | 4,6-Dibromo-3-hydroxy-2-nitrobenzoic acid | 12 mmol, 4.09 g | BrC1=C(C(=C(C(=O)O)C(=C1)Br)[N+](=O)[O-])O | C7H3Br2NO5
solvent | EtOH | 150 mL | CCO | C2H6O
product | 4,6-Dibromo-3-hydroxyanthranilic acid | 2.51 g | BrC=1C(=C(C(C(=O)O)=C(C1)Br)N)O | C7H5Br2NO3
